US05250554
Methyl 4-[N-(2'-cyanobiphenyl-4-yl)methyl-N-valerylamino]-3-nitrobenzoate
A mixture of methyl 4-valerylamino-3-nitrobenzoate (2.1 g), 4-(2-cyanophenyl)benzyl bromide (2.0 g) and K2CO3 (1.1 g) in DMF (20 ml) was stirred for 4 hours at room temperature. To the reaction mixture was added water, the mixture was extracted with ethyl acetate, and the organic layer was washed with water. The resultant solution was dried and concentrated to give a syrup, which was purified by column chromatography on silica gel to afford a yellow syrup (3.5 g, quantitatively).

reactant | methyl 4-valerylamino-3-nitrobenzoate | 2.1 g | C(CCCC)(=O)NC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C13H16N2O5
reactant | 4-(2-cyanophenyl)benzyl bromide | 2.0 g | C(#N)C1=C(C=CC=C1)C1=CC=C(CBr)C=C1 | C14H10BrN
reactant | K2CO3 | 1.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | Methyl 4-[N-(2'-cyanobiphenyl-4-yl)methyl-N-valerylamino]-3-nitrobenzoate | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN(C(CCCC)=O)C1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C27H25N3O5
